US03976648
Zinc Bis(4,4-dimethyloxazolidine-3-carbodithioate) ##SPC23##
Thirty grams (1.0 mole) paraformaldehyde was added to a solution of 89.2 g. (1.0 mole) 2-amino-2-methyl-1-propanol in 600 ml. isopropanol, temperature at 45°-64°C. After all the paraformaldehyde had dissolved, the mixture was cooled to 12°C.; 92 g. (0.50 mole) anhydrous zinc acetate and 76 g. (1.0 mole) carbon disulfide was added. The reaction mixture was stirred six hours at 45°-50°C. Filtration at 5°C. gave 152.6 g. of the desired product melting with decomposition at 209°-211°C. A benzene-crystallized sample had the following analysis:

reactant | paraformaldehyde | 1.0 mole, Thirty grams | C=O | CH2O
reactant | 2-amino-2-methyl-1-propanol | 1.0 mole | NC(CO)(C)C | C4H11NO
reactant | zinc acetate | 0.50 mole | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
reactant | carbon disulfide | 1.0 mole | C(=S)=S | CS2
solvent | isopropanol | C(C)(C)O | C3H8O
product | Zinc Bis(4,4-dimethyloxazolidine-3-carbodithioate) | CC1(N(COC1)C(=S)[S-])C.CC1(N(COC1)C(=S)[S-])C.[Zn+2] | InChI=1S/2C6H11NOS2.Zn/c2*1-6(2)3-8-4-7(6)5(9)10;/h2*3-4H2,1-2H3,(H,9,10);/q;;+2/p-2
